US07985753B2
1,7-Dimethyl-1,2,3,4-tetrahydro-isoquinoline
In close analogy to the procedure described above, 1,7-dimethyl-3,4-dihydro-isoquinoline is reacted with sodium triacetoxyborohydride to provide the title compound.

reactant | 1,7-dimethyl-3,4-dihydro-isoquinoline | CC1=NCCC2=CC=C(C=C12)C | C11H13N
reactant | sodium triacetoxyborohydride | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
product | 1,7-Dimethyl-1,2,3,4-tetrahydro-isoquinoline | CC1NCCC2=CC=C(C=C12)C | C11H15N
